* C:\Users\pache\OneDrive\Documents\OpenSuperHet\LtSpice\State_Variable_Filter_NoAmpFeedback.asc
XU1 N010 N002 N001 N014 N009 OPA132 OPA132 OPA132
XU2 0 N005 N001 N014 N011 OPA132 OPA132 OPA132
XU3 0 N006 N001 N014 N003 OPA132 OPA132 OPA132
XU4 0 N012 N001 N014 N013 OPA132 OPA132 OPA132
R1 N010 N008 {myQ}
V2 N001 0 5
V3 0 N014 5
R2 N005 N009 {R_s}
R3 N006 N011 {R_s}
C1 N011 N005 {C_s}
C2 N003 N006 {C_s}
R4 N011 N010 {myQ}
R5 N003 N002 {R_s}
R6 N002 N009 {R_s}
R7 N012 N011 {R_s}
R8 N013 N012 {5*R_s}
XU5 0 N004 N001 N014 N008 OPA132 OPA132 OPA132
R9 N004 N007 {R_s}
R10 N008 N004 {5*R_s}
V1 N007 0 AC .5
.ac dec 100 1 600e6
.step param fc list 150 600 180000 4k
.param W=2*fc*3.1415926535
.param scale = 1k
.param R_s = scale
.param myQ=scale*fc/BW
.param BW = 150
.param C_s = 1/{scale*W}
.lib opa132.lib
.backanno
.end
